US05514680
E. 6-Fluoro-7-trifluoromethyl-1,4-dihydro-2,3-quinoxalinedione
A mixture of 3,4-diamino-6-fluorobenzotrifluoride (270 mg, 1.38 mmol) and oxalic acid dihydrate (200 mg, 1.60 mmol, used as received) in 4N HCl (5 mL) was refluxed at 120°-5° C. for 3 h, then cooled to room temperature. The mixture was centrifuged and the liquid layer was removed. The yellow solid was washed twice with cold water (2×2 mL), collected by filtration, and dried at 60° C. under reduced pressure for 2 h, affording 152 mg of crude title compound (40%) as a light yellow powder. The crude compound was dissolved in 1N NaOH (4 mL) and filtered. The filtrate was acidified to pH=5, affording 138 mg of title compound as a yellow powder. Mp: 330°-333° C. IR (KBr, cm-1) 3398, 3170, 2959, 1701, 1641, 1515; 1398. 1H NMR (DMSO-d6): δ7.079 (d, 1H, J=11.4 Hz); 7.376 (d, 1H, J=5.1 Hz); 12.022 (s, 1H); 12.225 (s, 1H). HRMS: calcd for C9H4F4N2O2 (M+) m/z: 248.0208; found: 248.0220.

reactant | 3,4-diamino-6-fluorobenzotrifluoride | 1.38 mmol, 270 mg | NC=1C=C(C(=CC1N)F)C(F)(F)F | C7H6F4N2
reactant | oxalic acid dihydrate | 1.60 mmol, 200 mg | O.O.C(C(=O)O)(=O)O
solvent | HCl | 4N, 5 mL | Cl | ClH
solvent | NaOH | 1N, 4 mL | [OH-].[Na+]
product | 6-Fluoro-7-trifluoromethyl-1,4-dihydro-2,3-quinoxalinedione | 138 mg | FC=1C=C2NC(C(NC2=CC1C(F)(F)F)=O)=O | C9H4F4N2O2
